US09023883B2
To a solution of 3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde (0.550 g, 0.00182 mol) in methanol (10 mL) at room temperature were added TEA (221 mg, 0.00913 mol), ZnCl2 (0.025 g, 0.000182 mol) and tert-butyl methyl(2-(methylamino)ethyl)carbamate (0.410 g, 0.00219 mol) and stirred for 45 min. NaCNBH3 (0.580 g, 0.00913 mol) was added and the reaction mixture was stirred for 2 h at room temperature. The reaction was poured into water (70 mL) and extracted with EtOAc (70 mL×2). The combined extracts were washed with brine (100 mL), dried over sodium sulphate and concentrated under vacuum. The residue was purified by SGC using DCM:MeOH (0%-4%) as eluent to obtain tert-butyl methyl(2-(methyl((3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate (0.770 g, Yield: 86.71%). LCMS (ESI): RT=2.00 min, m/z=474.8 [M+F1]+.

reactant | 3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde | 0.00182 mol, 0.550 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C=O)C1OCCCC1 | C15H15N3O4
reactant | tert-butyl methyl(2-(methylamino)ethyl)carbamate | 0.00219 mol, 0.410 g | CN(C(OC(C)(C)C)=O)CCNC | C9H20N2O2
reactant | NaCNBH3 | 0.00913 mol, 0.580 g | [BH3-]C#N.[Na+]
reactant | water | 70 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
catalyst | ZnCl2 | 0.000182 mol, 0.025 g | [Cl-].[Cl-].[Zn+2]
product | tert-butyl methyl(2-(methyl((3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate | 0.770 g, Yield: 86.71% | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C24H35N5O5
